US06207686B1
To a solution of 3,4-methylenedioxyphenylacetic acid (10 g) in ethanol (100 ml) was added conc. sulfuric acid (3 ml). After being refluxed for 90 minutes, the mixture was concentrated in vacuo. The residue was dissolved in diethyl ether (150 ml). The solution was washed with 1M aqueous sodium bicarbonate solution and brine successively and dried over magnesium sulfate, and concentrated in vacuo to give ethyl 3,4-methylenedioxyphenylacetate (11.0 g) as an oil.

reactant | 3,4-methylenedioxyphenylacetic acid | 10 g | C1OC=2C=C(C=CC2O1)CC(=O)O | C9H8O4
reactant | sulfuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl 3,4-methylenedioxyphenylacetate | 11.0 g | C1OC=2C=C(C=CC2O1)CC(=O)OCC | C11H12O4
